US08895566B2
A solution of 4M HCl in 1,4-dioxane (0.344 mL) was added to a solution of (S)-tert-butyl 5-((S)-1-(4-chlorophenyl)-2-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperidin-1-yl)-2-oxoethyl)-2,2-dimethylpyrrolidine-1-carboxylate (26 mg, 0.046 mmol) in 1,4-dioxane (1 mL) at 0° C. The mixture was allowed to warm up and stirred at room temperature for 4 hours. The mixture was concentrated in vacuo. The resulting residue was dissolved in minimal DCM and added to the ether (5 mL) at 0° C. A solid precipitated. The mixture was decanted and dried in vacuo to give (S)-2-(4-chlorophenyl)-2-((S)-5,5-dimethylpyrrolidin-2-yl)-1-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperidin-1-yl)ethanone dihydrochloride as a solid (26 mg, 100%). MS (APCI+) [M+H]+467.3. 1H NMR (D2O, 500 MHz) δ 8.96 (s, 1H), 7.48 (d, J=8.5 Hz, 2H), 7.38 (d, J=8.5 Hz, 2H), 4.60-4.20 (m, 3H), 4.01-3.52 (m, 6H), 3.48-3.05 (m, 4H), 2.85-2.82 (m, 1H), 2.43-2.36 (m, 1H), 1.96-1.86 (m, 5H), 1.32 (s, 3H), 1.1.31 (s, 3H), 1.19 (d, J=7.5 Hz, 3H).

reactant | HCl | 4M | Cl | ClH
reactant | (S)-tert-butyl 5-((S)-1-(4-chlorophenyl)-2-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperidin-1-yl)-2-oxoethyl)-2,2-dimethylpyrrolidine-1-carboxylate | 0.046 mmol, 26 mg | ClC1=CC=C(C=C1)[C@H](C(=O)N1CCC(CC1)C=1C2=C(N=CN1)CC[C@H]2C)[C@@H]2CCC(N2C(=O)OC(C)(C)C)(C)C | C32H43ClN4O3
solvent | 1,4-dioxane | 0.344 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(4-chlorophenyl)-2-((S)-5,5-dimethylpyrrolidin-2-yl)-1-(4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperidin-1-yl)ethanone dihydrochloride | 26 mg, 100% | Cl.Cl.ClC1=CC=C(C=C1)[C@H](C(=O)N1CCC(CC1)C=1C2=C(N=CN1)CC[C@H]2C)[C@H]2NC(CC2)(C)C | InChI=1S/C27H35ClN4O.2ClH/c1-17-4-9-21-23(17)25(30-16-29-21)19-11-14-32(15-12-19)26(33)24(18-5-7-20(28)8-6-18)22-10-13-27(2,3)31-22;;/h5-8,16-17,19,22,24,31H,4,9-15H2,1-3H3;2*1H/t17-,22+,24+;;/m1../s1
